US04607041
Tetrahydro-4H-pyran-4-yl 3-oxobutanoate
A solution of tetrahydro-4H-pyran-4-ol (1.6 ml, 16.8 mmoles) and 5-acetyl-2,2-dimethyl-1,3-dioxane-4,6-dione (3.0 g, 16.1 mmoles) in dry benzene (50 ml) was heated under reflux for 4 hours. The solvent was removed in vacuo and the residue distilled at 146°-151°/14 mm Hg to afford the title product as a colourless oil, 2.84 g. Nmr (CDCl3)δ5.1 (m,H), 3.5 (s,3H).

reactant | tetrahydro-4H-pyran-4-ol | 16.8 mmoles, 1.6 ml | O1CCC(CC1)O | C5H10O2
reactant | 5-acetyl-2,2-dimethyl-1,3-dioxane-4,6-dione | 16.1 mmoles, 3.0 g | C(C)(=O)C1C(OC(OC1=O)(C)C)=O | C8H10O5
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | Tetrahydro-4H-pyran-4-yl 3-oxobutanoate | O=C(CC(=O)OC1CCOCC1)C | C9H14O4
